US04758548
In a hydrogenation autoclave, 250 g (1.37 moles) of 2,5,7,7-tetramethyl-2-octenal, dissolved in 500 ml of methanol, were hydrogenated in the presence of 25 g of a 0.5% strength palladium/alumina catalyst at 80° C., initially under a hydrogen pressure of 25 bar, and after 2-3 h, under 55 bar. The total hydrogenation time was 10 h. The catalyst was filtered off, after which fractional distillation gave 245 g (1.33 moles) of 2,5,7,7-tetramethyloctanal (bp.=68° C./0.3 mbar; nD25 =1.4308), corresponding to a yield of 96% of theory. The compound was in the form of a diastereomeric mixture.

reactant | 2,5,7,7-tetramethyl-2-octenal | 1.37 moles, 250 g | CC(C=O)=CCC(CC(C)(C)C)C | C12H22O
reactant | hydrogen | [H][H] | H2
solvent | methanol | 500 ml | CO | CH4O
catalyst | palladium/alumina | [Pd] | Pd
product | 2,5,7,7-tetramethyloctanal | 1.33 moles, 245 g, yield of 96% | CC(C=O)CCC(CC(C)(C)C)C | C12H24O
